2142-05-01 07:30:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   Hct stable
   On clears overnight, then NPO p MN for flex sig this AM
   C/o feeling tired this morning. Also has back pain on sitting up. No
   bowel movements since transfer.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2142-4-30**] 07:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-1**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 72 (64 - 82) bpm
   BP: 102/49(62) {101/46(61) - 137/78(87)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,913 mL
                                                                     73 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,596 mL
                                                                     73 mL
   Blood products:
                                                                    957 mL
   Total out:
                                                                    855 mL
                                                                    150 mL
   Urine:
                                                                    755 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,058 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General: elderly female, tired appearing but no acute distress, lying
   comfortably in bed
   HEENT: normocephalic, atraumatic, supple neck
   CV: RRR with no m/r/g
   Pulm: CTAB with no m/r/g
   Back: No flank pain, tenderness over sacral spine
   Abd: + BS, soft, mild diffuse tenderness without guarding or rebound,
   ND
   Ext: no lower extremity edema
   Neuro: AAO x3. CN 2-12 intact, fatigued but appropriate
   Labs / Radiology
   219 K/uL
   10.7 g/dL
   102 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.3 mEq/L
   22 mg/dL
   101 mEq/L
   135 mEq/L
   31.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2142-4-29**]  10:21 PM
                             [**2142-4-30**]  02:25 AM
                             [**2142-4-30**]  11:48 AM
                             [**2142-4-30**]  07:13 PM
                             [**2142-5-1**]  04:05 AM
   WBC
   9.2
   8.4
   8.0
   Hct
   28.0
   31.4
   31.0
   30.2
   31.6
   Plt
   [**Telephone/Fax (3) 5637**]
   Cr
   1.5
   1.6
   1.2
   Glucose
   111
   116
   102
   Other labs: PT / PTT / INR:18.5/34.8/1.7, ALT / AST:15/22, Alk Phos / T
   Bili:100/2.5, Albumin:3.5 g/dL, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   86yo female with a history of multiple medical problems including [**Name2 (NI) 193**]
   cancer and breast cancer was transferred to the [**Hospital Unit Name 10**] for monitoring
   after ureteral stent placement by urology. She was initially admitted
   to [**Hospital1 1**] for management of left-sided hydronephrosis and was also found
   to have BRBPR.
   1. Left Sided Hydronephrosis
   Patient was found to have left-sided hydronephrosis likely related to
   metastatic lymph node (unclear primary); now s/p ureteral stent.
   - Appreciate urology input
   - Will follow-up with urology regarding the need for ciprofloxacin
   given negative urine culture
   - Continue to monitor UOP closely
   2. Renal Failure
   Etiology is most likely post-renal given evidence of obstruction on CT
   scan, although may be worsened with pre-renal causes given GI bleed.
   Patient's renal failure has improved since admission and more rapidy
   now s/p placement of ureteral stent.
   - Continue to monitor
   3. GI Bleed
   Patient underwent significant GI bleed requiring 2 blood transfusions
   but has since had stable Hct with no further episodes of GI bleeding.
   Given h/o unresected rectal cancer (s/p chemo), most likely etiology of
   GIB is disease progression.
   - [**Hospital1 **] hematocrits, maintain 2 large bore IVs, maintain active type and
   cross
   - Will need to address goals of care with family (?further work-up
   versus hospice), primary oncologist
   - Palliative care consulted
   - Will contact GI regarding need for flex sig following family meeting
   - Continue holding coumadin for now
   4. Liver and adrenal lesions
   Patient was found to have progressive liver and adrenal lesions and
   increased lymphadenopathy on recent CT scan. Etiology of these lesions
   is unclear, may be metastatic lesions secondary to [**Hospital1 193**] or breast
   cancer.
   - Will follow-up with patient and daughter regarding goals of care
   - Will follow-up with patient's outpatient oncologist regarding
   recommendations for further evaluation
   5. Depression
   Stable
   - appreciate social work input
   - continue lorazepam and SSRI
   6. H/o clot
   Patient has a history of PE in the past and now with evidence of IVC
   clot extending into the left renal vein on CT scan.
   - Will hold coumadin for now as above; will need to follow-up with
   patient and family regarding risks and benefits of coumadin in the
   setting of GI bleed likely from increasingly invasive rectal cancer
   7. Lower back pain: No lytic lesions on prior imaging. [**Month (only) 11**] be
   musculoskeletal [**2-5**] lying in bed.
   - Continue current pain management
   - Consider further w/u if pain increasing or new neurologic findings
   8. Hypothyroidism
   Stable
   - continue levothyroxine 112mcg PO daily
   9. Glaucoma
   Stable
   - continue timolol
   ICU Care
   Nutrition: NPO for flex sig
   Glycemic Control: not indicated
   Lines:
   18 Gauge - [**2142-4-30**] 11:14 AM
   Indwelling Port (PortaCath) - [**2142-4-30**] 11:46 AM
   Comments: Patient, Daughter [**First Name8 (NamePattern2) 3513**] [**Last Name (NamePattern1) 5625**] [**Telephone/Fax (1) 5626**], [**Telephone/Fax (1) 5627**]
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: PT consult ; transfer to floor if remains stable

2142-05-01 10:24:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Ureteral Obstruction
   Colon Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2142-4-30**] 10:00 AM
 INDWELLING PORT (PORTACATH) - STOP [**2142-4-30**] 11:18 AM
 OR RECEIVED - At [**2142-4-30**] 11:40 AM
 INDWELLING PORT (PORTACATH) - START [**2142-4-30**] 11:46 AM
 INDWELLING PORT (PORTACATH) - STOP [**2142-5-1**] 04:23 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2142-4-30**] 07:44 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2142-5-1**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 71 (64 - 82) bpm
   BP: 124/59(76) {101/46(61) - 137/73(85)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,913 mL
                                                                    102 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,596 mL
                                                                    102 mL
   Blood products:
                                                                    957 mL
   Total out:
                                                                    855 mL
                                                                    150 mL
   Urine:
                                                                    755 mL
                                                                    150 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,058 mL
                                                                    -49 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///23/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No flank pain noted,
   mild abdominal tenderness but without signs of peritonitis
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   219 K/uL
   102 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.3 mEq/L
   22 mg/dL
   101 mEq/L
   135 mEq/L
   31.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2142-4-29**]  10:21 PM
                             [**2142-4-30**]  02:25 AM
                             [**2142-4-30**]  11:48 AM
                             [**2142-4-30**]  07:13 PM
                             [**2142-5-1**]  04:05 AM
   WBC
   9.2
   8.4
   8.0
   Hct
   28.0
   31.4
   31.0
   30.2
   31.6
   Plt
   [**Telephone/Fax (3) 5637**]
   Cr
   1.5
   1.6
   1.2
   Glucose
   111
   116
   102
   Other labs: PT / PTT / INR:18.5/34.8/1.7, ALT / AST:15/22, Alk Phos / T
   Bili:100/2.5, Albumin:3.5 g/dL, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   86 yo female with history of multiple malignancies and ureteral
   obstruction with hospital course complicated by LGIB felt to be likely
   related to colon CA and with need, however, for flex sig per GI rec's
   to further evaluate.
   1)Ureteral Obstruction-
   -Stent placed
   -Will need urology follow up to manage
   -Follow urine output and exam
   2)GI Bleed-Has not required transfusion for past 24 hours and has not
   had furthe bowel movements.  Has received enema this morning
   -Will continue to monitor HCT
   -GI for flex sig today possibly
but will have to consider yield in the
   setting of known rectal CA
   3)DVT/PE--Coumadin held in the setting of active GI bleeding noted.
   -Based on findings on lower GI evaluation will consider restart of
   coumadin
   -If no desire for flex sig then will provide empiric restart of
   coumadin
but will have to be carefully considered in light of the
   recent bleeding event.
   4)Colon Cancer-Will need to consider overall plan in concert with
   outside hospital oncologist who has been kept up to date.  Will have to
   provide a framework for planning of future treatment path and will
   enlist palliative care in the discussion and aid in treatment planning.
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 ANXIETY
   ICU Care
   Nutrition: NPO depending on plans for procedure
   Glycemic Control:
   Lines:
   18 Gauge - [**2142-5-1**] 03:45 AM
   Prophylaxis:
   DVT: IVC filter
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes